US04510309
E. 2-[(2-Dimethylaminomethyl-4-thiazolyl)methylthio]ethylamine
To a solution of 2-{[2-(N-Carbophenoxy-N-methylamino)methyl-4-thiazolyl]methylthio}ethylamine (0.50 g; 1.48 mmoles) [prepared in Step D]in 10 ml of dry tetrahydrofuran under a nitrogen atmosphere was added lithium aluminum hydride (0.17 g ; 4.48 mmoles) and the mixture was heated at reflux temperature for 0.5 hour. An additional 10 ml of tetrahydrofuran was added and heating was continued for 3 hours. The reaction mixture was treated with 0.17 ml of H2O, 0.17 ml of 15% aqueous NaOH and 0.51 ml of H2O, and filtered through Celite and dried. The filtrate was filtered and evaporated under reduced pressure to give an oil which was dissolved in absolute ethanol, diluted with diethyl ether and acidified with dry HCl. The hydroscopic hydrochloride salt of the title compound was collected and partitioned between aqueous 2.5N NaOH and methylene chloride. The organic phase was washed with water, dried and filtered. The filtrate was evaporated under reduced pressure to give the free base of the title compound as an oil (0.22 g ; 0.95 mmole) which was combined with anhydrous oxalic acid (0.24 g; 1.90 mmole) in 30 ml of hot acetonitrile. The mixture was evaporated from hot absolute ethanol to yield the title compound the bis-oxalate, mp 168°-171°.

reactant | 2-{[2-(N-Carbophenoxy-N-methylamino)methyl-4-thiazolyl]methylthio}ethylamine | 1.48 mmoles, 0.50 g | C(=O)(OC1=CC=CC=C1)N(C)CC=1SC=C(N1)CSCCN | C15H19N3O2S2
reactant | lithium aluminum hydride | 4.48 mmoles, 0.17 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 0.17 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | H2O | 0.51 ml | O | H2O
solvent | H2O | 0.17 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[(2-Dimethylaminomethyl-4-thiazolyl)methylthio]ethylamine | 0.95 mmole, 0.22 g | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
